US08530468B2
8-Methoxyisoquinolin-3-yl trifluoromethanesulfonate
8-Methoxyisoquinolin-3-ol (140 mg, 0.798 mmol) was dissolved in DCM (5 mL) and N,N-diisopropylethylamine (309 mg, 2.394 mmol) and cooled to 0° C. Triflic anhydride (293 mg, 1.037 mmol) was added dropwise and the reaction was warmed to room temperature and stirred for an additional 16 hours. The reaction mixture was quenched with saturated aqueous ammonium chloride and extracted into DCM. The aqueous layer was re-extracted with DCM and the combined organic phases washed with brine, dried (Na2SO4) and concentrated to dryness. The product was purified by flash chromatography to afford the title compound (26.6 mg, 0.087 mmol, 11%). LC-MS (3) Rt=2.23 min; m/z (ESI+) 308 (M+H).

reactant | 8-Methoxyisoquinolin-3-ol | 0.798 mmol, 140 mg | COC=1C=CC=C2C=C(N=CC12)O | C10H9NO2
reactant | N,N-diisopropylethylamine | 2.394 mmol, 309 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Triflic anhydride | 1.037 mmol, 293 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-Methoxyisoquinolin-3-yl trifluoromethanesulfonate | 0.087 mmol, 26.6 mg, 11% | FC(S(=O)(=O)OC=1N=CC2=C(C=CC=C2C1)OC)(F)F | C11H8F3NO4S
